US05162360
(c) Preparation of 2-amino-4-undecyloxazole
To a solution of 1-hydroxy-2-tridecanone (1.0 g, 4.7 mmol) and cyanamide (0.2 g, 5 mmol) in THF (3.0 mL) was added aqueous sodium acetate (2.0 mL, 1.0 N), tetra n-butylammoniumhydroxide (0.6 mL, 0.4 N 0.2 mmol), and sodium hydroxide (0.2 mL, 1.0 N, 0.2 mmol) sequentially. The resulting two-phase mixture was stirred (48 hours, 25° C.). The resulting mixture was taken up in ethyl acetate (200 mL), washed with brine (2×65 mL), dried (MgSO4), and concentrated in vacuo. The residue was chromatographed on silica (pure chloroform to 95:5 chloroform:methanol) and concentrated in vacuo to yield 0.70 g (63%) of the title compound as an off-white powder, m.p. 55°-58° C.

reactant | 1-hydroxy-2-tridecanone | 4.7 mmol, 1.0 g | OCC(CCCCCCCCCCC)=O | C13H26O2
reactant | cyanamide | 5 mmol, 0.2 g | N#CN | CH2N2
reactant | sodium acetate | 1.0 N, 2.0 mL | C(C)(=O)[O-].[Na+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetra n-butylammoniumhydroxide | 0.2 mmol, 0.4 N, 0.6 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | sodium hydroxide | 0.2 mmol, 1.0 N, 0.2 mL | [OH-].[Na+]
product | 2-amino-4-undecyloxazole | 0.70 g, 63% | NC=1OC=C(N1)CCCCCCCCCCC | C14H26N2O
